US07855216B2
3-(2-Fluoro-4-iodo-phenylamino)-1-prop-2-ynyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A mixture of 3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (70.0 mg, 0.164 mmol), propargyl bromide (80% in xylene, 45.5 μL, 0.41 mmol, 2.5 eq), DBU (3.2 mL), and anhydrous THF (3.2 mL) was stirred at 50° C. under N2 for 1 h, and then at ambient temperature for 17 h. The solvent was evaporated and the resultant residue was diluted with ethyl acetate (75 mL). The organic layer was washed with water (20 mL), followed by brine (20 mL), dried (Na2SO4), filtered and evaporated to give a brown oil. The oil was purified by flash column chromatography (silica, ISCO, 45 mL/min, Hexane:EtOAc, gradient 100:1 to 1:100). Crystallization from EtOAc-hexane gave the desired compound as a yellow solid (34.5 mg, 45.3%). 1H NMR (400 MHz, CDCl3) δ ppm 8.74 (s, 1H), 8.44 (d, J=5.87 Hz, 1H), 7.60 (s, 1H), 7.45 (dd, J=10.26 Hz, 2.0 Hz, 1H), 7.37-7.27 (m, 2H), 6.87 (t, J=9.20 Hz, 1H), 5.29 (s, 2H), 4.46 (q, J=7.14 Hz, 2H), 2.29 (t, J=2.47 Hz, 1H), 1.49-1.40 (t, J=7.20 Hz, 3H); LC-MS (method D): [M+H]+=464.0, RT=2.40 min.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.164 mmol, 70.0 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1)NC1=C(C=C(C=C1)I)F | C16H13FIN3O2
reactant | propargyl bromide | 0.41 mmol, 45.5 μL, 2.5 eq | C(C#C)Br | C3H3Br
reactant | DBU | 3.2 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 3.2 mL | C1CCOC1 | C4H8O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-prop-2-ynyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 34.5 mg, 45.3% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1CC#C)NC1=C(C=C(C=C1)I)F | C19H15FIN3O2
